US06498172B1
3-(3-{[(Pyridine-3-sulfonyl)-(4-pyrimidin-5-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid
The title compound of Step A was prepared from 3-{3-[(4-pyrimidin-5-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester, of Step A of Example 11t, and pyridine-3-sulfonyl chloride hydrochloride, of Preparation 2, following the method described in Example 1, Step B using triethylamine in place of N,N-diisopropylethylamine. 1H NMR (400 MHz, CDCl3) δ 9.20 (s, 1H), 9.06 (s, 1H), 8.92 (s, 2H), 8.81 (s, 1H), 8.80 (m, 1H), 7.46 (m, 3H), 7.26 (m, 2H), 7.15 (m, 1H), 7.06 (d, 1H), 6.91 (d, 1H), 6.86 (s, 1H), 4.42 (s, 2H), 4.37 (s, 2H), 3.65 (s, 3H), 2.82 (t, 2H), 2.50 (t, 2H).

reactant | 3-{3-[(4-pyrimidin-5-yl-benzylamino)-methyl]-phenyl}-propionic acid methyl ester | COC(CCC1=CC(=CC=C1)CNCC1=CC=C(C=C1)C=1C=NC=NC1)=O | C22H23N3O2
reactant | pyridine-3-sulfonyl chloride hydrochloride | Cl.N1=CC(=CC=C1)S(=O)(=O)Cl
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 3-(3-{[(Pyridine-3-sulfonyl)-(4-pyrimidin-5-yl-benzyl)-amino]-methyl}-phenyl)-propionic acid | N1=CC(=CC=C1)S(=O)(=O)N(CC1=CC=C(C=C1)C=1C=NC=NC1)CC=1C=C(C=CC1)CCC(=O)O | C26H24N4O4S
